US04032656
A solution of 1.28 g. of 1-(6-carbomethoxyhexyl)- 2-(3-hydroxy-trans-1-octenyl)benzene in 150 ml. of methanol is cooled to 0° C. and a solution of 3.0 g. of potassium carbonate in 100 ml. of water is added. The ice bath is removed and the mixture is stirred for twenty-four hours. The methanol is removed in vacuo and the basic aqueous solution is washed with ether, cooled in ice and acidified to pH2 with dilute hydrochloric acid. The solution is then extracted with ether and the extract is washed with water and dried. The solvent is removed to yield 1-(6-carboxyhexyl)-2-(3-hydroxy-trans-1-octenyl)benzene.

reactant | 1-(6-carbomethoxyhexyl)- 2-(3-hydroxy-trans-1-octenyl)benzene | C(=O)(OC)CCCCCCC1=C(C=CC=C1)\C=C\C(CCCCC)O | C22H34O3
reactant | methanol | CO | CH4O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(6-carboxyhexyl)-2-(3-hydroxy-trans-1-octenyl)benzene | C(=O)(O)CCCCCCC1=C(C=CC=C1)\C=C\C(CCCCC)O | C21H32O3
